US08114868B2
Step 3. 3-Hydroxy-4-methoxy-3-phenyl-butyraldehyde
NalO4 (5.20 g) was added to a mixture of 5-methoxy-4-phenyl-pentane-1,2,4-triol (1.10 g), dichloromethane (10 mL), and water (5 mL) chilled in an ice bath. The mixture was stirred vigorously while warming to ambient temperature in the cooling bath and further stirred at this temperature overnight. Then, water (20 mL) and dichloromethane (50 mL) were added, the organic layer was separated, and the aqueous layer was extracted with dichloromethane (2×25 mL). The combined organic phases were washed with water and dried (MgSO4). After removal of the solvent, the title compound was yielded which was directly submitted to the next reaction step (glycol cleavage).

reactant | 5-methoxy-4-phenyl-pentane-1,2,4-triol | 1.10 g | COCC(CC(CO)O)(O)C1=CC=CC=C1 | C12H18O4
reactant | water | 5 mL | O | H2O
reactant | water | 20 mL | O | H2O
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 3-Hydroxy-4-methoxy-3-phenyl-butyraldehyde | OC(CC=O)(COC)C1=CC=CC=C1 | C11H14O3
